US08389728B2
1. 1-Methylsulfinyldecahydroquinoline (Compound A)
A solution of decahydroquinoline (1.07 g, 7.68 mmol) in anhydrous dichloromethane (10 mL) was cooled to −15° C. The reaction mixture was treated with triethylamine (1.07 mL, 7.68 mmol) and methanesulfinyl chloride (800 mg, 8.11 mmol). After 1 hour, the reaction mixture was placed in a −40° C. freezer overnight. The reaction mixture was warmed to room temperature and treated with 5% aq. NaHCO3 (10 mL) and additional dichloromethane (10 mL) and was separated. The organic layer was washed with 3% aq. HCl (1×20 mL), 5% aq. NaHCO3 (2×20 mL), water (1×20 mL), dried (MgSO4) and concentrated in vacuo. Flash chromatography (SiO2, ethyl acetate eluant) afforded the product as a yellow oil (1.2 g, 77%): 1H NMR (CDCl3, 600 MHz, δ) 3.41-2.70 (m, 4H), 2.52 (s, 1.3H, C1′-H), 2.51 (s, 0.4H, C1′-H), 2.49 (s, 1.3H, C1′-H), 1.75-1.26 (m, 12H); 13C NMR (CDCl3, 125 MHz, δ) 54.2, 49.2, 48.3, 47.8, 43.2, 42.6, 42.3, 41.6, 41.5, 41.4, 41.6, 41.5, 41.4, 39.0, 38.9, 38.84, 38.77, 35.6, 35.4, 34.0, 33.9, 33.1, 32.6, 32.5, 30.1, 30.0, 26.0, 25.7, 25.6; ESIMS m/z 224.2 (4, MNa+), 204.1 (5, 32S), 203.0 (13, 13C), 202.0 (base, MH+); ESIHRMS m/z 202.1260 (calculated for C10H20NOS 202.1260).

reactant | decahydroquinoline | 7.68 mmol, 1.07 g | N1CCCC2CCCCC12 | C9H17N
reactant | triethylamine | 7.68 mmol, 1.07 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfinyl chloride | 8.11 mmol, 800 mg | CS(=O)Cl | CH3ClOS
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Methylsulfinyldecahydroquinoline | 1.2 g, 77% | CS(=O)N1CCCC2CCCCC12 | C10H19NOS
